US07326732B2
(iii) 5-Phenyl-furan-2-carboxylic acid [3-(1H-tetrazol-5-ylmethyl)-phenyl]-amide
To a solution of 5-phenyl-furan-2-carboxylic acid (3-cyanomethyl-phenyl)-amide (70 mg, 0.23 mmol) in toluene (3 ml) was added Me3SnN3 (56 mg, 0.28 mmol). After heating to reflux for 18 h, additional Me3SnN3 (56 mg, 0.28 mmol) and toluene (2 ml) were added and the reaction was heated to reflux for a further 18 h. After this time, 2M NaOH (2 ml) and hexane (2 ml) were added to the reaction mixture and stirred for 10 min. Water (1 ml) was added and the organic layer separated. EtOAc (2 ml) was added to the aqueous layer and the solution stirred for 2 min before the organic layer was separated. The combined organic layers were discarded. The aqueous layer was then acidified to pH 5 with 2M HCl then EtOAc (2.5 ml) was added and the solution stirred for 10 min after which time the organic layer was separated. EtOAc (2.5 ml) was added to the aqueous layer and the solution stirred for 1 hour. The EtOAc layer was separated and these combined organic layers were evaporated in vacuo to give the title compound.

reactant | 5-phenyl-furan-2-carboxylic acid (3-cyanomethyl-phenyl)-amide | 0.23 mmol, 70 mg | C(#N)CC=1C=C(C=CC1)NC(=O)C=1OC(=CC1)C1=CC=CC=C1 | C19H14N2O2
reactant | Me3SnN3 | 0.28 mmol, 56 mg | [Sn](C)(C)(C)N=[N+]=[N-]
reactant | Me3SnN3 | 0.28 mmol, 56 mg | [Sn](C)(C)(C)N=[N+]=[N-]
reactant | NaOH | 2M, 2 ml | [OH-].[Na+]
reactant | hexane | 2 ml | CCCCCC | C6H14
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 1 ml | O | H2O
product | 5-Phenyl-furan-2-carboxylic acid [3-(1H-tetrazol-5-ylmethyl)-phenyl]-amide | N1N=NN=C1CC=1C=C(C=CC1)NC(=O)C=1OC(=CC1)C1=CC=CC=C1 | C19H15N5O2
